US07511145B2
Preparation of 2-{2-[8-(4-chloro-phenyl)-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl]-quinolin-6-yl}-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid (Compound 565)
1-[8-(4-Chloro-phenyl)-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl]-ethanone (76 mg, 0.25 mmol) and 2-(4-amino-3-formyl-phenyl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester (98 mg, 0.25 mmol) were dissolved in 500 μL ethanol and 500 μL 10% ethanolic KOH were added. The reaction was stirred at 75° C. overnight. The reaction was acidified with 4N hydrochloric acid, extracted three times with ethyl acetate, the organic extracts were dried with sodium sulfate and then evaporated. Purification via reverse-phase HPLC gave 132 mg of the title compound.

reactant | 1-[8-(4-Chloro-phenyl)-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl]-ethanone | 0.25 mmol, 76 mg | ClC1=CC=C(C=C1)C=1C(=CC2=C(OCCCO2)C1)C(C)=O | C17H15ClO3
reactant | 2-(4-amino-3-formyl-phenyl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester | 0.25 mmol, 98 mg | C(C)OC(=O)C1=CC2=C(N(C(=N2)C2=CC(=C(C=C2)N)C=O)C2CCCCC2)C=C1 | C23H25N3O3
reactant | KOH | 500 μL | [OH-].[K+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethanol | 500 μL | C(C)O | C2H6O
product | 2-{2-[8-(4-chloro-phenyl)-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl]-quinolin-6-yl}-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid | 132 mg | ClC1=CC=C(C=C1)C=1C(=CC2=C(OCCCO2)C1)C1=NC2=CC=C(C=C2C=C1)C1=NC2=C(N1C1CCCCC1)C=CC(=C2)C(=O)O | C38H32ClN3O4
